US07244729B2
Step 141.1: 4-[4-Chloro-1-(4-methoxy-benzyl)-1H-pyrrolo[2,3-d]pyrimidin-6-yl]-benzoic acid ethyl ester
A suspension of 3.0 g (10 mMol) of 4-(4-chloro-7H-pyrrolo[2,3-d]pyrimidin-6-yl)-benzoic acid ethyl ester (WO 97/02266), 2.4 g (17 mMol) of K2CO3, 0.32 g (1 mMol) of tetrabutyl-ammoniumbromide and 2.0 ml (15 mMol) of 4-methoxy-benzylchloride in 25 ml of 2-butanone is stirred for 18 h at 80° C. Then the suspension is filtered, the residue washed with 2-butanone and discarded. The filtrate is diluted with EtOAc and water, the aqueous layer separated off and extracted twice with EtOAc. The organic layers are washed with water and brine, dried (Na2SO4) and concentrated after adding 13 g of SiO2. The resulting powder is put on top of a chromatography column (SiO2) and then eluted with hexane/EtOAc 2:1. 4-[4-Chloro-7-(4-methoxy-benzyl)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-benzoic acid ethyl ester [TLC (hexane/EtOAc 2:1) Rf=0.40; MS-ES+: (M+H)+=422] is eluated first, followed by the title compound; TLC (hexane/EtOAc 2:1) Rf=0.23; MS-ES+: (M+H)+=422.

reactant | 4-(4-chloro-7H-pyrrolo[2,3-d]pyrimidin-6-yl)-benzoic acid ethyl ester | 10 mMol, 3.0 g | C(C)OC(C1=CC=C(C=C1)C1=CC2=C(N=CN=C2Cl)N1)=O | C15H12ClN3O2
reactant | K2CO3 | 17 mMol, 2.4 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-methoxy-benzylchloride | 15 mMol, 2.0 ml | COC1=CC=C(CCl)C=C1 | C8H9ClO
catalyst | tetrabutyl-ammoniumbromide | 1 mMol, 0.32 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | 2-butanone | 25 ml | CC(CC)=O | C4H8O
product | 4-[4-Chloro-1-(4-methoxy-benzyl)-1H-pyrrolo[2,3-d]pyrimidin-6-yl]-benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)C1=CC=2C(N(C=NC2Cl)CC2=CC=C(C=C2)OC)=N1)=O | C23H20ClN3O3
